US06143920
537.2 g (4.95 mol) of methyl chloroacetate are initially introduced and stirred at 25° C. 936.4 g (5.2 mol) of 30% strength sodium methoxide solution are added dropwise in the course of 2.5 h such that a reaction temperature of 65° is not exceeded. After the addition, stirring is continued at reflux temperature for a further 3 h. 511.9 g of methanol are then removed from the reaction mixture by distillation. 1,289.3 g (9.9 mol) of n-octanol are added to the residue and the mixture is heated under reflux. In the course of this, methanol is removed through a 0.5 m long Multifil column at a reflux ratio of approximately 1:1 (303.5 g of distillate), the bottom temperature rising to 210° C. during the removal. After 6.5 h, the conversion of the methyl methoxyacetate to the n-octyl methoxyacetate is >98%. The reaction mixture is fractionated through a 0.5 m long Multifil column. Initially, n-octanol and methyl methoxyacetate are distilled off n-Octyl methoxyacetate (740.0 g, yield 74%) is then obtained as a main fraction with a purity >99%, a chlorine content of 10 ppm and a water content of <0.05%.

reactant | methyl chloroacetate | 4.95 mol, 537.2 g | ClCC(=O)OC | C3H5ClO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl methoxyacetate | COCC(=O)OC | C4H8O3
reactant | n-octanol | C(CCCCCCC)O | C8H18O
reactant | n-octanol | 9.9 mol, 289.3 g | C(CCCCCCC)O | C8H18O
product | n-Octyl methoxyacetate | 740.0 g, yield 74% | COCC(=O)OCCCCCCCC | C11H22O3
